US08071600B2
A 6N aqueous sodium hydrochloride solution was added to N-(4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl formamide hydrochloride (0.23 g, 0.48 mmol) and the solution mixture was extracted with dichloromethane. The extraction solution with dichloromethane was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was dissolved in a tetrahydrofuran (THF) solution (5 ml) and lithium aluminum hydride (30 mg, 0.71 mmol) was added thereto under ice cooling and refluxed with heating for 15 minutes. The reaction solution was cooled on ice, and water (0.03 ml), 15% aqueous sodium hydroxide solution (0.03 ml), and water (0.09 ml) were added to the reaction mixture in this order and stirred. Insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=5:1→3:1) and concentrated under reduced pressure. A solution of 4N-hydrochloric acid/ethyl acetate was added to an ethyl acetate solution of the residue, and the insoluble matter precipitated was obtained by filtration to obtain N-methyl-4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylaniline hydrochloride (63 mg) as white powder.

reactant | sodium hydrochloride | 6N | Cl.[Na]
reactant | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl formamide hydrochloride | 0.48 mmol, 0.23 g | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(C=C2C)NC=O)OC
reactant | lithium aluminum hydride | 0.71 mmol, 30 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.03 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 0.09 ml | O | H2O
solvent | water | 0.03 ml | O | H2O
product | N-methyl-4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylaniline hydrochloride | 63 mg | Cl.CNC1=CC(=C(C(=C1)C)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)OC | InChI=1S/C24H31N3O2S.ClH/c1-18-16-19(25-2)17-22(28-3)24(18)29-14-5-9-26-10-12-27(13-11-26)21-6-4-7-23-20(21)8-15-30-23;/h4,6-8,15-17,25H,5,9-14H2,1-3H3;1H
